US09290511B2
8-(5-Bromothieno[2,3-d]pyrimidin-4-yl)-8-azabicyclo[3.2.1]octan-3-one (1.5 g, 4.43 mmol) in toluene (60 mL) was treated with cyclobutylamine (3.145 g, 44.3 mmol) and heated with stirring to reflux for 2 h. Ethanol (100 mL) and sodium triacetoxyborohydride (9.347 g, 44.3 mmol) were added and the reaction stirred and warmed at 30° C. over 3 days. The reaction was then concentrated in vacuum to a gum, diluted with ethyl acetate (100 mL) and saturated sodium hydrogen carbonate solution (50 mL) and shaken. The ethyl acetate layer was then separated, dried over sodium sulphate and concentrated in vacuum to give 8-(5-bromothieno[2,3-d]pyrimidin-4-yl)-N-cyclobutyl-8-azabicyclo[3.2.1]octan-3-amine as a yellow solid (1.799 g, 3.97 mmol, 89%). 1H NMR (CDCl3) δ: 1.5 (3H, d, J=12 Hz), 1.65 (3H, br s), 1.93 (2H, br s), 2.1 (2H, d, J=6 Hz), 2.22 (2H, m), 2.4 (2H, m), 3.0 (1H, br s), 3.3 (1H, m), 4.63 (2H, br s), 7.3 (1H, s), 8.45 (1H, s).

reactant | 8-(5-Bromothieno[2,3-d]pyrimidin-4-yl)-8-azabicyclo[3.2.1]octan-3-one | 4.43 mmol, 1.5 g | BrC1=CSC=2N=CN=C(C21)N2C1CC(CC2CC1)=O | C13H12BrN3OS
reactant | cyclobutylamine | 44.3 mmol, 3.145 g | C1(CCC1)N | C4H9N
reactant | Ethanol | 100 mL | C(C)O | C2H6O
reactant | sodium triacetoxyborohydride | 44.3 mmol, 9.347 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 8-(5-bromothieno[2,3-d]pyrimidin-4-yl)-N-cyclobutyl-8-azabicyclo[3.2.1]octan-3-amine | 3.97 mmol, 1.799 g, 89% | BrC1=CSC=2N=CN=C(C21)N2C1CC(CC2CC1)NC1CCC1 | C17H21BrN4S
